US08026257B2
Fluoroboric acid diethylether complex (0.015 g, 0.095 mmol) was added to a 0° C. solution of (±)-1-(5-chloro-3-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indol-7-yl)ethyl 2,2,2-trichloroacetimidate (0.945 g, 1.907 mmol) and tert-butyl 4-(4-fluorophenyl)-4-(hydroxymethyl)piperidine-1-carboxylate (0.59 g, 1.907 mmol) in Dichloromethane (10 mL) and was stirred for 20 min at 0° C. TLC indicated the reaction was complete, and the reaction was quenched with aqueous sodium bicarbonate (10 mL). The reaction was extracted with ethyl acetate (3×10 mL) and the organic phase was dried with MgSO4 and evaporated. The residue was purified by chromatography on SiO2 with 15%-20% ethyl acetate/hexanes to give (±)-tert-butyl 4-((1-(5-chloro-3-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (466 mg, 0.726 mmol, 38.0% yield) as a white solid. 1H-NMR (CDCl3, 400 MHz) δ 7.60 (d, J=2.0 Hz, 1H), 7.49 (s, 1H), 7.15 (m, 2H), 7.05 (d, J=2.0 Hz, 1H), 6.94 (app t, J=8.6 Hz, 2H), 5.22 (m, 2H), 5.07 (m, 1H), 3.66 (m, 2H), 3.33 (app t, J=8.3 Hz, 2H), 3.22 (d, J=8.8 Hz, 1H), 3.11 (d, J=8.8 Hz, 1H), 3.02 (m, 2H), 2.07 (m, 2H), 1.79 (m, 2H), 1.42 (d, J=6.3 Hz, 3H), 0.65-0.90 (m, 2H), −0.08 (s, 9H).

reactant | (±)-1-(5-chloro-3-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indol-7-yl)ethyl 2,2,2-trichloroacetimidate | 1.907 mmol, 0.945 g | ClC(C(OC(C)C=1C=C(C=C2C(=CN(C12)COCC[Si](C)(C)C)C#N)Cl)=N)(Cl)Cl | C19H23Cl4N3O2Si
reactant | tert-butyl 4-(4-fluorophenyl)-4-(hydroxymethyl)piperidine-1-carboxylate | 1.907 mmol, 0.59 g | FC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)CO | C17H24FNO3
solvent | Dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (±)-tert-butyl 4-((1-(5-chloro-3-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.726 mmol, 466 mg, 38.0% yield | ClC=1C=C2C(=CN(C2=C(C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C)C#N | C34H45ClFN3O4Si
